.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-33N_freq port1 port2 PARAMS: Cpar=1.308pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=48.14
+ R2=0.0007
+ C= {Cpar}
+ K1=0.00000747
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=142
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 2014VS-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-66N
* Inductance = 66nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-550MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-66N_freq port1 port2 PARAMS: Cpar=3.048pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=14.77
+ R2=0.0007
+ C= {Cpar}
+ K1=0.0000129
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=270
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 2014VS-66N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-111
* Inductance = 110nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-480MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-111_freq port1 port2 PARAMS: Cpar=2.278pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=7.8
+ R2=0.0188
+ C= {Cpar}
+ K1=0.0000187
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=434
+ L_EL=1.97
+ L_F0=23.5E6
+ PkZ=0
.ends 2014VS-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-151_freq port1 port2 PARAMS: Cpar=2.578pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=9.3
+ R2=0.0015
+ C= {Cpar}
+ K1=0.0000295
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=602
+ L_EL=1.97
+ L_F0=23.5E6
+ PkZ=0
.ends 2014VS-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-201
* Inductance = 200nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-330MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-201_freq port1 port2 PARAMS: Cpar=2.128pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=10.6
+ R2=0.0017
+ C= {Cpar}
+ K1=0.0000422
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=824
+ L_EL=1.97
+ L_F0=23.5E6
+ PkZ=0
.ends 2014VS-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2014VS-251
* Inductance = 250nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-240MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2014VS-251_freq port1 port2 PARAMS: Cpar=1.888pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=30.98
+ R2=0.002
+ C= {Cpar}
+ K1=0.000038
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=420
+ L_EL=1.97
+ L_F0=10E6
+ PkZ=0
.ends 2014VS-251_freq

